US07084169B2
A dry 25 mL flask equipped with a magnetic stirrer was charged with {2-[3-(2-fluoro-benzenesulfonyl)-1H-indol-7-yloxy]-ethyl}-methyl-carbamic acid tert-butyl ester (0.116 g., 0.258 mmol) and dimethylformamide (5 mL.) This solution was treated with sodium hydride (0.011 g. of 60% suspension in mineral oil, 0.284 mmol) and allowed to stir for 10 minutes under N2. Methyl iodide was then added via syringe in one portion. After 18 hours stirring at ambient temperature, the reaction mixture was extracted into 45 mL ethyl acetate and washed with water (2×45 mL). The organic fraction was dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (85:15 hexanes:EtOAc to 70:30 hexanes:EtOAc) to give 45 mg of {2-[3-(2-fluoro-benzenesulfonyl)-1-methyl-1H-indol-7-yloxy]-ethyl}-methyl -carbamic acid tert-butyl ester as a clear oil: 1H NMR (CDCl3, 300 MHz) δ: 1.45 (s, 9H), 2.94 (s, 3H), 3.71 (m, 2H), 4.09 (s, 3H), 4.19 (m, 2H), 6.67 (d, 1H, J=7.7), 7.04 (m, 1H), 7.08 (t, 1H, J=8.0), 7.27 (td, 1H, J=7.6, J′=1.13), 7.44 (d, 1H, J=7.6), 7.49 (m, 1H), 7.74 (d, 1H, J=1.3), 8.15 (td, 1H, J=7.6, J′=1.8).

reactant | {2-[3-(2-fluoro-benzenesulfonyl)-1H-indol-7-yloxy]-ethyl}-methyl-carbamic acid tert-butyl ester | 0.258 mmol, 0.116 g | C(C)(C)(C)OC(N(C)CCOC=1C=CC=C2C(=CNC12)S(=O)(=O)C1=C(C=CC=C1)F)=O | C22H25FN2O5S
reactant | sodium hydride | 0.284 mmol, 0.011 g | [H-].[Na+]
reactant | Methyl iodide | CI | CH3I
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | {2-[3-(2-fluoro-benzenesulfonyl)-1-methyl-1H-indol-7-yloxy]-ethyl}-methyl -carbamic acid tert-butyl ester | 45 mg | C(C)(C)(C)OC(N(C)CCOC=1C=CC=C2C(=CN(C12)C)S(=O)(=O)C1=C(C=CC=C1)F)=O | C23H27FN2O5S
